US07435815B2
N-Ethyl-2-[(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide
prepared by reaction of [(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid with ethyl-(6-methyl-pyridin-2-ylmethyl)-amine

reactant | [(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-acetic acid | COC1=C(C=CC=C1)N(S(=O)(=O)C1=NC=CC=C1C)CC(=O)O | C15H16N2O5S
reactant | ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
product | N-Ethyl-2-[(2-methoxy-phenyl)-(3-methyl-pyridine-2-sulfonyl)-amino]-N-(6-methyl-pyridin-2-ylmethyl)-acetamide | C(C)N(C(CN(S(=O)(=O)C1=NC=CC=C1C)C1=C(C=CC=C1)OC)=O)CC1=NC(=CC=C1)C | C24H28N4O4S
